US04279887
A solution of 15 ml of morpholine in 30 ml of tetrahydrofuran was reacted with a solution of 8.0 g o-iodobenzoyl chloride in 20 ml tetrahydrofuran for 10 minutes. The product was obtained in the manner described in Example 3, using saturated NaCl instead of H2O. There was obtained by recrystallization from benzene/hexane 6.8 g of N-o-iodobenzoylmorpholine as hard, translucent crystals, m.p. 86°-87°, Rf 0.73.

reactant | morpholine | 15 ml | N1CCOCC1 | C4H9NO
reactant | o-iodobenzoyl chloride | 8.0 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | NaCl | [Na+].[Cl-]
reactant | benzene hexane | 6.8 g | C1=CC=CC=C1.CCCCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-o-iodobenzoylmorpholine | IC1=C(C(=O)N2CCOCC2)C=CC=C1 | C11H12INO2
